US08071584B2
5-Bromo-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid
To a stirred solution of 5-bromo-1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid (8.3 g, 0.023 mol) in DCM (90 mL) was added TFA (90 mL). The reaction mixture was stirred at room temperature for 3 h and then concentrated. The residue was partitioned between EtOAc (100 mL) and water (100 mL), and the aqueous fraction was extracted with EtOAc (2×50 mL). The combined organic layers were washed with water (1×50 mL) and brine (1×50 mL). dried (Na2SO4) and concentrated under reduced pressure, giving 5.9 g (99%) of the title compound.

reactant | 5-bromo-1-{[(1,1-dimethylethyl)oxy]carbonyl}-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 0.023 mol, 8.3 g | BrC=1C=C2CCN(C2=C(C1F)C(=O)O)C(=O)OC(C)(C)C | C14H15BrFNO4
reactant | TFA | 90 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 90 mL | C(Cl)Cl | CH2Cl2
product | 5-Bromo-6-fluoro-2,3-dihydro-1H-indole-7-carboxylic acid | 5.9 g, 99% | BrC=1C=C2CCNC2=C(C1F)C(=O)O | C9H7BrFNO2
